US09145380B2
c) (E)-2-(6-Bromopyridin-3-yl)ethenesulfonyl chloride
Triphenylphosphine (2.74 g, 10.44 mmol) was dissolved in anhydrous dichloromethane (30 mL) under an atmosphere of argon and the mixture was cooled to 0° C. with an ice bath. Sulfuryl chloride (0.87 mL, 10.68 mmol) was added dropwise and the cooling bath was removed. The solution was stirred at ambient temperature for 15 min. A solution of (E)-2-(6-bromopyridin-3-yl)ethenesulfonic acid tetrabutylammonium (2.46 g, 4.86 mmol) in anhydrous dichloromethane (10 mL) was added dropwise over 10 min. The reaction was stirred at ambient temperature for 1.5 h and the mixture was concentrated. Purification by column chromatography, using a gradient of 5-30% ethyl acetate in heptane as the eluent, gave 0.51 g of the title compound.

reactant | Triphenylphosphine | 10.44 mmol, 2.74 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Sulfuryl chloride | 10.68 mmol, 0.87 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | (E)-2-(6-bromopyridin-3-yl)ethenesulfonic acid tetrabutylammonium | 4.86 mmol, 2.46 g | C(CCC)[N+](CCCC)(CCCC)CCCC.BrC1=CC=C(C=N1)/C=C/S(=O)(=O)O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (E)-2-(6-Bromopyridin-3-yl)ethenesulfonyl chloride | 0.51 g | BrC1=CC=C(C=N1)/C=C/S(=O)(=O)Cl | C7H5BrClNO2S
